US07632857B2
[4-(6-Amino-pyridin-3-yl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared starting with 5-iodo-pyridin-2-ylamine and (2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone following a procedure significantly analogous to Procedure FF. MS (m/e): 351.2 (M+1)

reactant | 5-iodo-pyridin-2-ylamine | IC=1C=CC(=NC1)N | C5H5IN2
reactant | (2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanone | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H33BN2O3
product | [4-(6-Amino-pyridin-3-yl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | NC1=CC=C(C=N1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C21H26N4O
